US09238639B2
Methyl(4,7-dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.336 mL), methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate (130.7 mg), (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (94 mg) and THF (4.5 mL) was added ADDP (283 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere overnight. The mixture was concentrated. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (153 mg).

reactant | tri-n-butylphosphine | 0.336 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate | 130.7 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)O)Cl)=O | C11H8Cl2O3S
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 94 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | ADDP | 283 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | Methyl(4,7-dichloro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 153 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)OCC=2C(=NC(=CC2)C(F)(F)F)C)Cl)=O | C19H14Cl2F3NO3S
